US08106064B2
6-(3-[1,3]Dioxolan-2-yl-5-methyl-phenoxy)-5-isopropyl-1H-pyrimidine-2,4-dione (121):
2,4-Bis-benzyloxy-6-(3-[1,3]dioxolan-2-yl-5-methyl-phenoxy)-5-isopropyl-pyrimidine (1.56 g, 3.04 mmol) in anhydrous THF (20 ml) was stirred in the presence of 10% palladium on carbon (58 mg) under an atmosphere of hydrogen. After 3 hr., the mixture was filtered through a celite pad and the pad was washed with methanol. The combined filtrate was evaporated in vacuo and the residue was purified by silica gel column chromatography (eluent, EA:hexanes (4:1)) to afford 889 mg (89%) of a white solid. m.p. 201-203° C.; 1H NMR (200 MHz, CDCl3) δ 1.20 (6H, d, J=7.2 Hz), 2.37 (3H, s), 3.09 (1H, m), 4.02-4.15 (4H, m), 5.73 (1H, s), 6.80 (1H, s), 6.99 (1H, s), 7.16 (1H, s), 8.80 (1H, s), 9.19 (1H, s); m/z (LC/Mass, EI) 333 (M+H+).

reactant | 2,4-Bis-benzyloxy-6-(3-[1,3]dioxolan-2-yl-5-methyl-phenoxy)-5-isopropyl-pyrimidine | 3.04 mmol, 1.56 g | C(C1=CC=CC=C1)OC1=NC(=C(C(=N1)OCC1=CC=CC=C1)C(C)C)OC1=CC(=CC(=C1)C)C1OCCO1 | C31H32N2O5
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 58 mg | [Pd] | Pd
product | 6-(3-[1,3]Dioxolan-2-yl-5-methyl-phenoxy)-5-isopropyl-1H-pyrimidine-2,4-dione | 889 mg, 89% | O1C(OCC1)C=1C=C(OC2=C(C(NC(N2)=O)=O)C(C)C)C=C(C1)C | C17H20N2O5
